### PR TITLE
Things I had laying around (June 2025 edition)

### PR DESCRIPTION
**Pull request by plt-amy**
* `Triangle` type for `Square refl _ _ _`
* Rezk completion as HIT

### CODE REVIEW

**Comment by plt-amy** [comment]
Can I get a second pair of eyes on the two big new pages?

File: src/Cat/Univalent/Rezk/HIT.lagda.md [hunk 1]
```diff
@@ -0,0 +1,420 @@
...
+into paths in $\widehat{\cC}$; and we have a generating triangle saying
+that this constructor respects composition, filling the diagram
+
+~~~{.quiver}
+\[\begin{tikzcd}[ampersand replacement=\&]
+  {\rm{inc}\ x} \&\& {\rm{inc}\ y} \\
+  \\
+  \&\& {\rm{inc}\ z\text{.}}
+  \arrow["{\rm{glue}\ f}", equals, from=1-1, to=1-3]
+  \arrow[""{name=0, anchor=center, inner sep=0}, "{\rm{glue}\ (f\circ g)}"', equals, from=1-1, to=3-3]
```
Comment (ncfavier) [inline src/Cat/Univalent/Rezk/HIT.lagda.md:51]:
```suggestion
  \arrow[""{name=0, anchor=center, inner sep=0}, "{\rm{glue}\ (g \circ f)}"', equals, from=1-1, to=3-3]
```

File: src/Cat/Univalent/Rezk/HIT.lagda.md [hunk 2]
```diff
@@ -0,0 +1,420 @@
...
+C^-elim-set pi pg (inc x) = pi x
+C^-elim-set pi pg (glue x i) = pg x i
+C^-elim-set {P = P} pi pg (glueᵀ {x} f g i j) =
+  is-set→squarep (λ i j → hlevel {T = P (glueᵀ f g i j)} 2)
+    (λ i → pi x) (λ i → pg f i) (λ i → pg (g ∘Iso f) i) (λ i → pg g i) i j
+C^-elim-set {P = P} pi pg (squash x y p q α β i j k) =
+  is-hlevel→is-hlevel-dep 2 (λ x → is-hlevel-suc 2 (hlevel {T = P x} 2))
+    (go x) (go y) (λ i → go (p i)) (λ i → go (q i))
+    (λ i j → go (α i j)) (λ i j → go (β i j)) (squash x y p q α β) i j k
+  where go = C^-elim-set {P = P} pi pg
```
Comment (ncfavier) [inline src/Cat/Univalent/Rezk/HIT.lagda.md:106]: Can this use the macro?

File: src/Cat/Univalent/Rezk/HIT.lagda.md [hunk 3]
```diff
@@ -0,0 +1,420 @@
...
+  field
+    has-is-groupoid : is-groupoid P
+
+    base : ⌞ C ⌟ → ⌞ C ⌟ → P
+```
+
+Then, we must give actions of the isomorphisms $x \cong_\cC x'$ on both
+the left and the right of $f$, making it into a sort of "profunctor";
+and, correspondingly, these actions must be "profunctorial". In
+particular, they should respect composition and commute past eachother,
```
Comment (ncfavier) [inline src/Cat/Univalent/Rezk/HIT.lagda.md:153]:
```suggestion
particular, they should respect composition and commute past each other,
```

File: src/Cat/Univalent/Rezk/HIT.lagda.md [hunk 4]
```diff
@@ -0,0 +1,420 @@
...
+  C^-rec₂ (glue x i)       z = lmap' x i z
+  C^-rec₂ (glueᵀ x y i j)  z = lcoh' x y i j z
+  C^-rec₂ (squash x y p q α β i j k) z =
+    let
+      go : C^ → P
+      go x = C^-rec₂ x z
+    in is-hlevel→is-hlevel-dep 2 (λ _ → hlevel 3)
+      (go x) (go y) (λ i → go (p i)) (λ i → go (q i))
+      (λ i j → go (α i j)) (λ i j → go (β i j))
+      (squash x y p q α β) i j k
```
Comment (ncfavier) [inline src/Cat/Univalent/Rezk/HIT.lagda.md:211]: Ditto: would this be shorter with an eliminator into groupoids?

File: src/Cat/Univalent/Rezk/HIT.lagda.md [hunk 5]
```diff
@@ -0,0 +1,420 @@
...
+composition operation by $\widehat{\cC}$-recursion. These will consist
+of lifting the corresponding operation from $\cC$ and then showing that
+they respect the action of `glue`{.Agda} on `hom^`{.Agda}, which we have
+defined to be pre- and post-composition with the given isomorphism.
+Therefore, while there is a lot of code motion to put these together,
+they are conceptually very simple.
+
+For a worked-out example, the necessary coherence for lifting the
+identity morphisms from $\cC$ to $\widehat{\cC}$ asks simply that if $j
+: x \cong y$, then we have $j \id j\inv = \id$, which is a short
```
Comment (ncfavier) [inline src/Cat/Univalent/Rezk/HIT.lagda.md:282]:
```suggestion
: x \cong y$, then we have $j \circ \id \circ j\inv = \id$, which is a short
```

File: src/Homotopy/Space/Rose.lagda.md [hunk 6]
```diff
@@ -0,0 +1,233 @@
...
+\begin{polaraxis}[grid=none, axis lines=none]
+  \addplot[mark=none,domain=0:360,samples=300, thick] {cos(180 + x * 3)};
+  \node[draw,circle,label=right:{\Large $\rm{base}$},fill,outer sep=0.2cm, inner sep=0pt, minimum size=0.2cm] (a0) at (0, 0) {};
+\end{polaraxis}
+
+\end{tikzpicture}
+~~~
+
+More generally, we can allow the arity $n$ to be given by an arbitrary
+type $A$--- but for the computation of the fundamental group below, we
```
Comment (ncfavier) [inline src/Homotopy/Space/Rose.lagda.md:41]:
```suggestion
type $A$ --- but for the computation of the fundamental group below, we
```

File: src/Homotopy/Space/Rose.lagda.md [hunk 7]
```diff
@@ -0,0 +1,233 @@
...
+  decode (loop x i) w j = hcomp (∂ i ∨ ∂ j) λ where
+    k (k = i0) → loopʷ (unglue w .fst) j
+    k (i = i0) → ∙→square (loop-act (inl x) (w .fst)) (~ k) j
+    k (i = i1) → loopʷ (w .fst) j
+    k (j = i0) → base
+    k (j = i1) → loop x (i ∨ ~ k)
+```
+
+To show that these functions are inverses at the base point, we do some
+more case analysis--- in one direction, this "case analysis" is path
```
Comment (ncfavier) [inline src/Homotopy/Space/Rose.lagda.md:164]:
```suggestion
more case analysis --- in one direction, this "case analysis" is path
```

File: src/Homotopy/Space/Rose.lagda.md [hunk 8]
```diff
@@ -0,0 +1,233 @@
...
+      ε (loopʷ w ∙ loopˡ x) w'                                .fst ≡⟨ ap fst (subst-∙ Cover (loopʷ w) (loopˡ x) w') ⟩
+      ε (loopˡ x) ⌜ ε (loopʷ w) w' ⌝                          .fst ≡⟨ ap! (Σ-prop-path! (encode-loopʷ w (uncons-reduced r) w')) ⟩
+      ε (loopˡ x) (mul w (w' .fst) , mul-reduced w (w' .snd)) .fst ≡⟨ encode-loopˡ (mul w (w' .fst)) (mul-reduced w (w' .snd)) x ⟩
+      act x (mul w (w' .fst))                                      ∎
+```
+
+</details>
+
+As a consequence, the encoding of the word $w$ is precisely the product
+$w1$, which is of course just $w$--- this shows that encoding is inverse
```
Comment (ncfavier) [inline src/Homotopy/Space/Rose.lagda.md:219]:
```suggestion
$w \cdot 1$, which is of course just $w$--- this shows that encoding is inverse
```

Comment (ncfavier) [inline src/Homotopy/Space/Rose.lagda.md:219]:
```suggestion
$w1$, which is of course just $w$ --- this shows that encoding is inverse
```

File: src/Homotopy/Space/Rose.lagda.md
Comment (ncfavier) [inline src/Homotopy/Space/Rose.lagda.md:1]: This page is so pretty 🌹

File: src/Cat/Univalent/Rezk/HIT.lagda.md (hunk 4 above)
Comment (plt-amy) [reply src/Cat/Univalent/Rezk/HIT.lagda.md:211]: It would but at the cost of having significantly worse neutral forms (hence performance). That's how I wrote this originally and the file was painful

File: src/Homotopy/Space/Rose.lagda.md (hunk 6 above)
Comment (plt-amy) [reply src/Homotopy/Space/Rose.lagda.md:41]: nah

Comment (ncfavier) [reply src/Homotopy/Space/Rose.lagda.md:41]: Doesn't this look a bit weird?

TOs-0R

Comment (plt-amy) [reply src/Homotopy/Space/Rose.lagda.md:41]: this is how i've always written my em dashes

**Review by ncfavier — DISMISSED** [review]

File: src/Cat/Univalent/Rezk/HIT.lagda.md [hunk 9]
```diff
@@ -0,0 +1,420 @@
...
+```
+
+<details>
+<summary>Lifting the composition operation is similar, but more
+involved, since we now have to do recursion on `C^`{.Agda}
+*thrice*.</summary>
+
+```agda
+  ∘^ : ∀ x y z → hom^ y z → hom^ x y → hom^ x z
+  ∘^ = C^-elim-set f₁ coh₂ where mutual
```
Comment (TOTBWF) [inline src/Cat/Univalent/Rezk/HIT.lagda.md:302]: Could we package this up into `C^-elim-set_3`?

File: src/Cat/Univalent/Rezk/HIT.lagda.md [hunk 10]
```diff
@@ -0,0 +1,420 @@
...
+
+```agda
+Rzk : Precategory (o ⊔ ℓ) ℓ
+Rzk .P.Ob  = C^
+Rzk .P.Hom x y = Hom^ x y
+Rzk .P.Hom-set x y = hlevel 2
+Rzk .P.id  {x}             = lift (id^ x)
+Rzk .P._∘_ {w} {x} {y} f g = lift (∘^ w x y (f .lower) (g .lower))
+
+Rzk .P.idr {x} {y} (lift f) = ap lift (idr^ x y f) where
```
Comment (TOTBWF) [inline src/Cat/Univalent/Rezk/HIT.lagda.md:334]: Should we use `where abstract` here, or do we care about these paths somewhere else?

**Review by TOTBWF — APPROVED** [review]
Two questions, but nothing worth preventing a merge :)

File: src/Cat/Univalent/Rezk/HIT.lagda.md (hunk 10 above)
Comment (plt-amy) [reply src/Cat/Univalent/Rezk/HIT.lagda.md:334]: I don't think it matters much - categories are no-eta

File: src/Homotopy/Space/Rose.lagda.md (hunk 6 above)
Comment (plt-amy) [reply src/Homotopy/Space/Rose.lagda.md:41]: i don't live in chicago

**Review by TOTBWF — APPROVED** [review]
